US06362177B1
A solution of 3-(tert-butoxycarbonyl)amino-1-(4-chlorobenzyl)pyrrolidine (6.38 g, 20.5 mmol) in CH3OH (80 mL) was treated with 1 N HCl-Et2O (100 mL) and was stirred at 25° C. for 15 h. The solvent was removed under reduced pressure to afford a solid which was purified by recrystallization (1:2 CH3OH—CH3CN, 150 mL) to give 3-amino-1-(4-chlorobenzyl)pyrrolidine dihydrochloride as a white powder (4.939 g, 84.9%): 1H NMR (d6-DMSO, 300 MHz) δ3.15 (br, 1H), 3.3-3.75 (br-m, 4H), 3.9 (br, 1H), 4.05 (br, 1H), 4.44 (br, 1H), 4.54 (br, 1H), 7.5-7.7 (m, 4H), 8.45 (br, 1H), 8.60 (br, 1H); The purity was determined by RPLC/MS (>99%); ESI/MS m/e 211.0 (M++H, C11H16ClN2).

reactant | 3-(tert-butoxycarbonyl)amino-1-(4-chlorobenzyl)pyrrolidine | 20.5 mmol, 6.38 g | C(C)(C)(C)OC(=O)NC1CN(CC1)CC1=CC=C(C=C1)Cl | C16H23ClN2O2
reactant | HCl Et2O | 1 N, 100 mL | Cl.CCOCC
solvent | CH3OH | 80 mL | CO | CH4O
product | 3-amino-1-(4-chlorobenzyl)pyrrolidine dihydrochloride | 4.939 g, 84.9% | Cl.Cl.NC1CN(CC1)CC1=CC=C(C=C1)Cl | InChI=1S/C11H15ClN2.2ClH/c12-10-3-1-9(2-4-10)7-14-6-5-11(13)8-14;;/h1-4,11H,5-8,13H2;2*1H
